US07816557B2
Step D. 3-{4-[1-(4′-Trifluoromethoxy-biphenyl-4-yloxy)-heptyl]-benzoylamino}-propionic acid methyl ester, isomer 1
3-{4-[1-(4-Bromo-phenoxyl)-heptyl]-benzoylamino}-propionic acid methyl ester (isomer 1, 100 mg, 0.21 mmol), potassium carbonate (85 mg, 0.63 mmol), 4-trifluoromethoxylphenyl boronic acid (86 mg, 0.42 mmol) and tetrakis-(triphenylphosphine)palladium (24 mg, 0.021 mmol) are place in a flask. After the reaction is purged with N2 for several times, THF/H2O (20 ml/5 ml) is added. The resulting solution is refluxed overnight, concentrated and acidified by 1 N HCl (0.6 mL), extracted with ethyl acetate. Combined organic layers are washed with water and brine, dried over sodium sulfate, purified by reverse phase HPLC to give the title compound (40 mg). MS (ES): 526.2 [M−H]−.

reactant | 3-{4-[1-(4-Bromo-phenoxyl)-heptyl]-benzoylamino}-propionic acid methyl ester | 0.21 mmol, 100 mg | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)Br)=O)=O | C24H30BrNO4
reactant | potassium carbonate | 0.63 mmol, 85 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethoxylphenyl boronic acid | 0.42 mmol, 86 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 3-{4-[1-(4′-Trifluoromethoxy-biphenyl-4-yloxy)-heptyl]-benzoylamino}-propionic acid methyl ester | 40 mg | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C31H34F3NO5
